US06251926B1
A mixture of methyl E-4-[3,5-dimethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyrate (970 mg), methanol (5 ml), tetrahydrofuran (10 ml) and 1N aqueous sodium hydroxide (5 ml) was stirred at room temperature for 1 hour. The reaction mixture was poured into water, acidified with 2N hydrochloric acid, and extracted with ethyl acetate. The extract was washed with water, dried (MgSO4), and concentrated to give E-4-[3,5-dimethoxy4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyric acid (880 mg, yield 93%) as crystals. Recrystallization from ethyl acetate-isopropyl ether gave colorless needles. m.p. 89-90° C.

reactant | methyl E-4-[3,5-dimethoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyrate | 970 mg | COC=1C=C(CO\N=C(/CCC(=O)OC)\C2=CC=CC=C2)C=C(C1OCC=1N=C(OC1C)C1=CC=CC=C1)OC | C31H32N2O7
reactant | methanol | 5 ml | CO | CH4O
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | E-4-[3,5-dimethoxy4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-4-phenylbutyric acid | 880 mg, yield 93% | COC=1C=C(CO\N=C(/CCC(=O)O)\C2=CC=CC=C2)C=C(C1OCC=1N=C(OC1C)C1=CC=CC=C1)OC | C30H30N2O7
